US03932641
To a solution of 1.0 g. of 3-methyl-2-(2-pyridyl)-thiobutanamide in 20 ml. of methanol is added, at one time, 0.45 g. of morpholine and 0.42 ml. of a 37% formalin solution. The reaction is stirred for 15 hours at 25°C., then refluxed on a steam bath for 20 minutes. The solvents are evaporated in vacuo and the residue is distilled to give 3-methyl-N-morpholinomethyl-2-(2-pyridyl)thiobutanamide, b.p. 110°-112°C. (0.005 mm.).

reactant | 3-methyl-2-(2-pyridyl)-thiobutanamide | CC(C(C(=S)N)C1=NC=CC=C1)C | C10H14N2S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | formalin | C=O | CH2O
solvent | methanol | CO | CH4O
product | 3-methyl-N-morpholinomethyl-2-(2-pyridyl)thiobutanamide | CC(C(C(=S)NCN1CCOCC1)C1=NC=CC=C1)C | C15H23N3OS
